US07544697B2
The method described in Part C of Example 10 was used to treat ethyl 1-ethyl-5-(2-methanesulfonylethyl)-1H-pyrazole-3-carboxylate (4.6 g, 17 mmol) with ammonium hydroxide (100 mL). The solid was isolated by filtration and washed with water to provide 3.0 g of 1-ethyl-5-(2-methanesulfonylethyl)-1H-pyrazole-3-carboxamide as a white powder, which was mixed with material from another run.

reactant | ethyl 1-ethyl-5-(2-methanesulfonylethyl)-1H-pyrazole-3-carboxylate | 17 mmol, 4.6 g | C(C)N1N=C(C=C1CCS(=O)(=O)C)C(=O)OCC | C11H18N2O4S
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
product | 1-ethyl-5-(2-methanesulfonylethyl)-1H-pyrazole-3-carboxamide | 3.0 g | C(C)N1N=C(C=C1CCS(=O)(=O)C)C(=O)N | C9H15N3O3S
